US07402592B2
7-(3-Pyridinyl)-3-azabicyclo[3.3.1]non-6-ene dihydrochloride
7-(3-pyridinyl)-3-azabicyclo[3.3.1]non-6-ene-3-carboxylic acid ethyl ester (90 mg, 0.03 mmol) was dissolved in concentrated 12 N HCl (10 ml) and refluxed overnight. The reaction was then concentrated by rotary evaporation, and the residue was converted to a free base with saturated sodium bicarbonate (˜20 ml). The mixture was treated with saturated with sodium chloride (˜3 g) and extracted with chloroform (3×10 ml). The combined organic extracts were dried over sodium sulfate, filtered and concentrated by rotary evaporation. The residue was purified by column chromatography, using methanol/chloroform (10% methanol with 1% ammonium hydroxide) as eluent, to yield 26.2 mg of the free base. Concentrated HCl (5 drops) was added to a solution of the free base in ethanol (10 ml). The excess HCl and residual water were removed by repeated azeotropic rotary evaporation with ethanol. The crude salt was dissolved in hot isopropanol (5 ml) and diluted with diethyl ether (1 ml). The solution turned cloudy and was allowed to slowly cool for 1 h. White crystals formed on the sides. The supernatant was decanted, and the solid was washed with a 20% ether/isopropanol solution and dried on a hi-vacuum pump. This gave 7-(3-pyridinyl)-3-azabicyclo[3.3.1]non-6-ene dihydrochloride as a white powder (14 mg, 16%, m.p. 219-221° C.).

reactant | 7-(3-pyridinyl)-3-azabicyclo[3.3.1]non-6-ene-3-carboxylic acid ethyl ester | 0.03 mmol, 90 mg | C(C)OC(=O)N1CC2CC(=CC(C1)C2)C=2C=NC=CC2 | C16H20N2O2
reactant | HCl | 12 N, 10 ml | Cl | ClH
product | 7-(3-Pyridinyl)-3-azabicyclo[3.3.1]non-6-ene dihydrochloride | 26.2 mg | Cl.Cl.N1=CC(=CC=C1)C1=CC2CNCC(C1)C2 | InChI=1S/C13H16N2.2ClH/c1-2-12(9-14-3-1)13-5-10-4-11(6-13)8-15-7-10;;/h1-3,5,9-11,15H,4,6-8H2;2*1H
